US07915424B2
2-Fluoro-5-iodophenol
To a cooled solution of 2-fluoro-5-iodophenylboronic acid in tetrahydrofuran (200 mL) at 0° C. add an aqueous solution of 30% hydrogen peroxide (9.92 mL, 103 mmol) dropwise, stir 10 min, and add an aqueous 4 N solution of sodium hydroxide (1.78 mL, 7.12 mmol). Warm the reaction to room temperature and stir overnight. Add manganese dioxide (250 mg) to the reaction, stir 90 min and filter through fluted filter paper. Concentrate and partition the residue between diethyl ether and water. Separate the layers and sequentially wash the organic layer with water and an aqueous saturated solution of sodium chloride. Dry (sodium sulfate), filter and concentrate. Purify the resulting tan oil by silica gel chromatography, eluting with a gradient of 0:100 to 30:70 ethyl acetate:hexanes, to give the title compound as a yellow waxy solid (18.1 g, 65%).

reactant | 2-fluoro-5-iodophenylboronic acid | FC1=C(C=C(C=C1)I)B(O)O | C6H5BFIO2
reactant | hydrogen peroxide | 103 mmol, 9.92 mL | OO | H2O2
reactant | sodium hydroxide | 7.12 mmol, 1.78 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 250 mg | [O-2].[O-2].[Mn+4]
product | 2-Fluoro-5-iodophenol | FC1=C(C=C(C=C1)I)O | C6H4FIO
